US08835419B2
Synthesis of 5-((S)-1,3′-bipiperidin-4-yl)-2-chloro-N—((R)-1-(2,4-dichlorophenyl)ethyl)aniline (see FIG. 9)
A mixture of the crude 2-chloro-N-((1R)-1-(2,4-dichlorophenyl)ethyl)-5-(1-((3S)-3-piperidyl)-3,6-dihydro-2H-pyridin-4-yl)aniline (0.30 g, 0.63 mmol), platinum(IV) oxide (PtO2) (5% by weight, 0.045 g) in ethanol (3 mL) containing concentrated hydrochloric acid (conc. HCl) (0.20 mL, 2.20 mmol) in a Paar shaker flask was hydrogenated at 40 psi for 45 min. The reaction mixture was diluted with ethanol, and filtered through the Celite. The filtrate was concentrated in vacuo, and the resulting residue was diluted with dichloromethane (25 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution, dried (Na2SO4), filtered, and concentrated in vacuo. The residue was used without further purification (0.27 g, 0.058 mmol). MS: (ES) m/z calculated for C24H31Cl3N3 [M+H]+466.2. found 466.

reactant | 2-chloro-N-((1R)-1-(2,4-dichlorophenyl)ethyl)-5-(1-((3S)-3-piperidyl)-3,6-dihydro-2H-pyridin-4-yl)aniline | 0.63 mmol, 0.30 g | ClC1=C(N[C@H](C)C2=C(C=C(C=C2)Cl)Cl)C=C(C=C1)C=1CCN(CC1)[C@@H]1CNCCC1 | C24H28Cl3N3
reactant | hydrochloric acid | 2.20 mmol, 0.20 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 0.045 g | [Pt](=O)=O
product | 5-((S)-1,3′-bipiperidin-4-yl)-2-chloro-N—((R)-1-(2,4-dichlorophenyl)ethyl)aniline | N1(CCC(CC1)C=1C=CC(=C(N[C@H](C)C2=C(C=C(C=C2)Cl)Cl)C1)Cl)[C@@H]1CNCCC1 | C24H30Cl3N3
